US07851473B2
(1) 3-Fluorobenzenecarboximidamide hydrochloride
To a solution of hexamethyldisilazane (13.8 g, 85.6 mmol) in diethyl ether (143 ml) was added dropwise a 1.6 N solution (53.5 ml, 85.6 mmol) of n-butyllithium in hexane under ice-cooling. Thereto 3-fluorobenzonitrile (5.00 g, 41.3 mmol) was added, followed by stirring at room temperature for 2 hours. Thereto 3 N hydrochloric acid (57 ml) was added dropwiseunder ice-cooling, and the reaction mixture was stirred at room temperature for 0.5 hour. Water (200 ml) was added thereto, and the ether layer was removed. The aqueous layer was basified with an aqueous 3 N sodium hydroxide solution, and then extracted with chloroform. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. A 4 N solution (50 ml) of hydrogen chloride in ethyl acetate was added to the residue, and 4.65 g (64.5%) of the desired product as a solid was collected by filtration.

reactant | hexamethyldisilazane | 85.6 mmol, 13.8 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-fluorobenzonitrile | 41.3 mmol, 5.00 g | FC=1C=C(C#N)C=CC1 | C7H4FN
reactant | hydrochloric acid | 3 N, 57 ml | Cl | ClH
solvent | diethyl ether | 143 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | Water | 200 ml | O | H2O
product | 3-Fluorobenzenecarboximidamide hydrochloride | Cl.FC=1C=C(C=CC1)C(N)=N | InChI=1S/C7H7FN2.ClH/c8-6-3-1-2-5(4-6)7(9)10;/h1-4H,(H3,9,10);1H
